US07157577B2
(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid was reacted with diethylaminoethylamine using General Amidation Procedure 1 to give N-(2-diethylamino-ethyl)-2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetamide. MS m/z 280 [M+1].

reactant | (5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid | C(=O)C1=C(C(=C(N1)C)CC(=O)O)C | C9H11NO3
reactant | diethylaminoethylamine | C(C)N(CC)CCN | C6H16N2
product | N-(2-diethylamino-ethyl)-2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetamide | C(C)N(CCNC(CC1=C(NC(=C1C)C=O)C)=O)CC | C15H25N3O2
